US06573405B1
A mixture of phenyl trimethoxy ethylene (0.005 mol) and benzaldehyde (0.005 mol) in ZnCl2-Choline chloride (2:1) melt (0.5 ml) was stirred mechanically for 10 minutes and silylated intermediate was pipetted out and treated with HCl(1N)/MeOH (1:10) to give pure 3-hydroxy 1,3-diphenyl-1-propanone quantitatively.

reactant | phenyl trimethoxy ethylene | 0.005 mol | C1(=CC=CC=C1)C(=C(OC)OC)OC | C11H14O3
reactant | benzaldehyde | 0.005 mol | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | 1N | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | ZnCl2 Choline chloride | [Cl-].[Cl-].[Zn+2].[Cl-].OCC[N+](C)(C)C
product | 3-hydroxy 1,3-diphenyl-1-propanone | OC(CC(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C15H14O2
